US08604029B2
To a solution of 2-methyl-2-(3-nitro-phenyl)-propionic acid 2-bromo-ethyl ester (1.5 g, 4.74 mmol) in DMF (8 mL) was added sodium iodide (0.73 g, 4.87 mmol) and heated at 100° C. for 1 h. 2-Isopropyl-imidazole (2.15 g, 19.5 mmol) and triethylamine (2 mL, 14.6 mmol) were added and then refluxed for 4 h. The reaction was diluted with water and extracted with DCM. The organic layer was washed thoroughly with water, dried over sodium sulfate and evaporated to obtain crude compound. Purification by column chromatography on silica gel (60-120 mesh), eluting with 30% ethyl acetate/hexane gave 2-methyl-2-(3-nitro-phenyl)-propionic acid 2-(2-isopropyl-imidazol-1-yl)-ethyl ester (320 mg, 20%) as a solid.

reactant | 2-methyl-2-(3-nitro-phenyl)-propionic acid 2-bromo-ethyl ester | 4.74 mmol, 1.5 g | BrCCOC(C(C)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C12H14BrNO4
reactant | sodium iodide | 4.87 mmol, 0.73 g | [I-].[Na+]
reactant | 2-Isopropyl-imidazole | 19.5 mmol, 2.15 g | C(C)(C)C=1NC=CN1 | C6H10N2
reactant | triethylamine | 14.6 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-methyl-2-(3-nitro-phenyl)-propionic acid 2-(2-isopropyl-imidazol-1-yl)-ethyl ester | 320 mg, 20% | C(C)(C)C=1N(C=CN1)CCOC(C(C)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C18H23N3O4
